US06002008
6-Amino-4-[(3-iodophenyl)amino]-3-quinolinecarbonitrile
A mixture of 6.70 g (16.1 mmol) 4-[(3-iodophenyl)amino]-6-nitro-3-quinolinecarbonitrile, 300 ml ethanol, and 18.2 g (80.5 mmol) SnCl2 dihydrate was heated to reflux under N2. Removed heat at 2 hours, added ice water. Added sodium bicarbonate until pH was basic, forming a thick yellow mixture. Stirred for 2.5 hours. Extracted with chloroform, stirred organic portion with Darco and filtered through magnesium sulfate. Stripped solvent and dried in vacuo, giving 3.48 g of yellow-brown solid: mass spectrum (electrospray m/e): M+H=387.0.

reactant | 4-[(3-iodophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 16.1 mmol, 6.70 g | IC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H9IN4O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-Amino-4-[(3-iodophenyl)amino]-3-quinolinecarbonitrile | 3.48 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)I | C16H11IN4
